### PR TITLE
[Merged by Bors] - feat: Finset family induction

### PR DESCRIPTION
**Pull request by YaelDillies**
Provide an induction principle for finset families: One can increase the support of a finset family one by one.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SetFamily/Compression/Down.lean [hunk 1]
```diff
@@ -136,6 +136,81 @@ theorem nonMemberSubfamily_nonMemberSubfamily :
   simp
 #align finset.non_member_subfamily_non_member_subfamily Finset.nonMemberSubfamily_nonMemberSubfamily
 
+lemma memberSubfamily_image_insert (h𝒜 : ∀ s ∈ 𝒜, a ∉ s) :
+    (𝒜.image $ insert a).memberSubfamily a = 𝒜 := by
```
Comment (eric-wieser) [inline Mathlib/Combinatorics/SetFamily/Compression/Down.lean:140]:
```suggestion
    (𝒜.image <| insert a).memberSubfamily a = 𝒜 := by
```
(throughout)

File: Mathlib/Combinatorics/SetFamily/Compression/Down.lean [hunk 2]
```diff
@@ -136,6 +136,81 @@ theorem nonMemberSubfamily_nonMemberSubfamily :
...
+  · rintro ⟨s, ⟨hs, -⟩, rfl⟩
+    exact ⟨hs, mem_insert_self _ _⟩
+  · rwa [insert_erase ha]
+
+/-- Induction principle for finset families. To prove a statement for every finset family,
+it suffices to prove it for
+* the empty finset family.
+* the finset family which only contains the empty finset.
+* `𝒜 ∪ {s ∪ {a} | s ∈ ℬ}` assuming the property for `𝒜` and `ℬ`, where `a` is an element of the
+  ground type and `𝒜` and `ℬ` are families of finsets not containing `a`.
```
Comment (eric-wieser) [inline Mathlib/Combinatorics/SetFamily/Compression/Down.lean:168]: I find this docstring rather confusing; there are two different `𝒜`s in the theorem statement, but as far as I can tell neither is the one mentioned here.

**Review by eric-wieser — APPROVED** [review]

File: Mathlib/Combinatorics/SetFamily/Compression/Down.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SetFamily/Compression/Down.lean:168]: The first `𝒜` is just because it's an `_on` induction principle. The second `𝒜` is the one in the docstring.

Comment (YaelDillies) [reply Mathlib/Combinatorics/SetFamily/Compression/Down.lean:168]: The goal is to restate the mathematics in a way that's closer to the textbook formulation, so I don't know how much I care about the mismatch.

Comment (YaelDillies) [reply Mathlib/Combinatorics/SetFamily/Compression/Down.lean]: What about now?

File: Mathlib/Combinatorics/SetFamily/Compression/Down.lean [hunk 3]
```diff
@@ -164,8 +164,10 @@ lemma image_insert_memberSubfamily (𝒜 : Finset (Finset α)) (a : α) :
 it suffices to prove it for
 * the empty finset family.
 * the finset family which only contains the empty finset.
-* `𝒜 ∪ {s ∪ {a} | s ∈ ℬ}` assuming the property for `𝒜` and `ℬ`, where `a` is an element of the
+* `ℬ ∪ {s ∪ {a} | s ∈ 𝒞}` assuming the property for `ℬ` and `𝒞`, where `a` is an element of the
   ground type and `𝒜` and `ℬ` are families of finsets not containing `a`.
+  Note that instead of giving `ℬ` and `𝒞`, the induction principle gives you
```
Comment (eric-wieser) [inline Mathlib/Combinatorics/SetFamily/Compression/Down.lean:169]: Mentioning the name of the relevant hypothesis would be nice, especially as this is what the user would type after `induction`:
```suggestion
  Note that instead of giving `ℬ` and `𝒞`, the `subfamily` case gives you
```

File: Mathlib/Combinatorics/SetFamily/Compression/Down.lean [hunk 4]
```diff
@@ -193,9 +195,10 @@ it suffices to prove it for
 * the empty finset family.
 * the finset family which only contains the empty finset.
 * `{s ∪ {a} | s ∈ 𝒜}` assuming the property for `𝒜` a family of finsets not containing `a`.
-* `𝒜 ∪ ℬ` assuming the property for `𝒜` and `ℬ`, where `a` is an element of the
-  ground type and `𝒜`is a family of finsets not containing `a` and `ℬ` a family of finsets
-  containing `a`.
+* `ℬ ∪ 𝒞` assuming the property for `ℬ` and `𝒞`, where `a` is an element of the ground type and
+  `ℬ`is a family of finsets not containing `a` and `𝒞` a family of finsets containing `a`.
+  Note that instead of giving `ℬ` and `𝒞`, the induction principle gives you
+  `𝒜 = ℬ ∪ 𝒞`, so that `ℬ = 𝒜.filter (a ∉ ·)` and `𝒞 = 𝒜.filter (a ∈ ·)`.
```
Comment (eric-wieser) [inline Mathlib/Combinatorics/SetFamily/Compression/Down.lean:201]: This is much clearer, thanks!

**Review by eric-wieser — COMMENTED** [review]
maintainer merge

I'm too tired to think about whether these are sensible recursion principles, but this largely looks good.

**Comment by riccardobrasca** [comment]
There is an error, but LGTM.

bors d+

**Comment by YaelDillies** [comment]
That's the non-deterministic test failing. This should be fixed on master.

bors merge
